US07576135B2
2-[(5-methylpyridin-2-yl)amino]-2-oxoacetic acid methyl ester
The method described in Referential Example 242 was performed by use of 2-amino-5-methylpyridine and methyl chlorooxoacetate, whereby the title compound was obtained.

reactant | 2-amino-5-methylpyridine | NC1=NC=C(C=C1)C | C6H8N2
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-[(5-methylpyridin-2-yl)amino]-2-oxoacetic acid methyl ester | COC(C(=O)NC1=NC=C(C=C1)C)=O | C9H10N2O3
